US08912331B2
To a solution of N-boc-3-aminopropanoic acid (0.150 g, 0.793 mmol) in DMF (1.5 ml), N-Ethyldiisopropylamine (0.205 g, 1.58 mmol) and HATU (0.301 g, 0.793 mmol) were added and stirred for 5 min. Dimethylamine hydrochloride (0.065 g, 0.793 mmol) was added at RT and the reaction mixture was stirred for 12 h, Water was added to the reaction mixture and extracted with ethyl acetate, dried over sodium sulphate and concentrated under reduced pressure. The crude product was purified by column chromatography with methanol; dichloromethane to afford tert-butyl 3-(dimethylamino)-3-oxopropylcarbamate. Trifluoroacetic acid (1 ml) was added to the product obtained, stirred for 2 h and concentrated to afford title compound as the trifluoroacetate salt (0.090 g, 40%).

reactant | N-boc-3-aminopropanoic acid | 0.793 mmol, 0.150 g | C(=O)(OC(C)(C)C)NCCC(=O)O | C8H15NO4
reactant | N-Ethyldiisopropylamine | 1.58 mmol, 0.205 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.793 mmol, 0.301 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Dimethylamine hydrochloride | 0.793 mmol, 0.065 g | Cl.CNC
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | tert-butyl 3-(dimethylamino)-3-oxopropylcarbamate | CN(C(CCNC(OC(C)(C)C)=O)=O)C | C10H20N2O3
